US05776964
2-(4-Methyl-phenyl)-2-phenyl-acetic acid
1.49 g (5 mmol) of tert-butyl 2-(4-methyl-phenyl)-2-phenyl-2-hydroxy-acetate are stirred at room temperature in 60 ml of dichloromethane for 3 h with 6.3 ml (40 mmol) of triethylsilane and 12.6 ml (60 mmol) of trifluoroacetic acid. The mixture is diluted with 60 ml of water, adjusted to a pH of 2-3 with saturated aqueous bicarbonate solution and shaken. After removal of the organic phase, the aqueous phase is extracted twice more with dichloromethane. The combined organic phases are dried over sodium sulphate, filtered and concentrated. The product is chromatographed on silica gel 60 using 40-60 petroleum ether/ethyl acetate (6:4).

reactant | tert-butyl 2-(4-methyl-phenyl)-2-phenyl-2-hydroxy-acetate | 5 mmol, 1.49 g | CC1=CC=C(C=C1)C(C(=O)OC(C)(C)C)(O)C1=CC=CC=C1 | C19H22O3
reactant | triethylsilane | 40 mmol, 6.3 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 60 mmol, 12.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | bicarbonate | C([O-])(O)=O
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
solvent | water | 60 ml | O | H2O
product | 2-(4-Methyl-phenyl)-2-phenyl-acetic acid | CC1=CC=C(C=C1)C(C(=O)O)C1=CC=CC=C1 | C15H14O2
